US07534791B2
Synthesis of 2-(2-methyl-benzo[b]thiophen-3-ylsulfanyl)-benzoic acid methyl ester (Method 12.)
2-(Methoxycarbonyl)phenyl sulfenyl chloride (10 mL 0.29 M solution in 1,2-dichloro-ethane, 2.9 mmol) is added to a solution of 2-methyl-benzo[b]thiophene (445 mg, 3mmol) in 5 mL 1,2-dichloro-ethane. The reaction mixture is cooled to 0° C. Aluminium chloride (400 mg, 3 mmol) is added and the reaction mixture is stirred for 4 hours at room temperature. The reaction is quenched with water. The organic phase is washed with brine, dried with MgSO4 and concentrated in vacuo. The residue is purified by flash chromatography on silica gel using ethyl acetate-heptane as eluent. This furnishes 651 mg (69%) of the title compound as an oil.

reactant | 2-(Methoxycarbonyl)phenyl sulfenyl chloride | 2.9 mmol, 0.29 M, 10 mL | COC(=O)C1=C(C=CC=C1)SCl | C8H7ClO2S
reactant | 2-methyl-benzo[b]thiophene | 3mmol, 445 mg | CC1=CC2=C(S1)C=CC=C2 | C9H8S
reactant | Aluminium chloride | 3 mmol, 400 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloro-ethane | 5 mL | ClCCCl | C2H4Cl2
product | 2-(2-methyl-benzo[b]thiophen-3-ylsulfanyl)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)SC=1C2=C(SC1C)C=CC=C2)=O | C17H14O2S2
